US03995039
By replacing the 1-amidino-4-(4-pyridyl)-5-amino-pyrazole employed in Example 1C with an equivalent quantity of 1-amidino-4-(2-pyrazinyl)-5-aminopyrazole and following substantially the same procedure described in Example 1C there is obtained a 75% yield of 4-amino-8-(2-pyrazinyl)-pyrazolo[1,5-a][1,3,5]triazine. The product separates from boiling dimethylformamide in crystals melting above 360° C.

reactant | 1-amidino-4-(4-pyridyl)-5-amino-pyrazole | C(N)(=N)N1N=CC(=C1N)C1=CC=NC=C1 | C9H10N6
reactant | 1-amidino-4-(2-pyrazinyl)-5-aminopyrazole | C(N)(=N)N1N=CC(=C1N)C1=NC=CN=C1 | C8H9N7
product | 4-amino-8-(2-pyrazinyl)-pyrazolo[1,5-a][1,3,5]triazine | 75% yield | NC1=NC=NC=2N1N=CC2C2=NC=CN=C2 | C9H7N7
